US04281016
Synthesis of allyl-N,N-dipropyldithiocarbamate
13.4 Grams of dipropylamine was added to 50 ml of tetrahydrofuran, and to this mixture being maintained a temperature at 0°-5° C., was added dropwise 5.0 gr of carbon disulfide over the period of 30 minutes under agitation. Thereafter, the mixture was maintained at a room temperature and 7.3 gr of allyl bromide was added dropwise thereto over the period of 30 minutes. The mixture was agitated at the same temperature for 3 hours to complete the reaction. The reaction mixture was poured into water and the separated organic substance was extracted twice with 30 ml of toluene and washed with diluted hydrochloric acid, followed by further washing with water. After removal of toluene by distillation to obtain 9.7 gr of the desired product.

reactant | dipropylamine | C(CC)NCCC | C6H15N
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | carbon disulfide | 5.0 gr | C(=S)=S | CS2
reactant | allyl bromide | 7.3 gr | C(C=C)Br | C3H5Br
solvent | water | O | H2O
product | allyl-N,N-dipropyldithiocarbamate | 9.7 gr | C(C=C)SC(N(CCC)CCC)=S | C10H19NS2
